US07618970B2
Preparation of (4R)-N-[(1R,3S)-3-isopropyl-3-(4-[3-(trifluoromethyl)phenyl]piperidin-1-ylcarbonyl)cyclopentyl]-3-methoxytetrahydro-2H-pyran-4-amine
(4R)-N-((1 R,3S)-3-Isopropyl-3-[4-[3-(trifluoromethyl)phenyl] -3,6-dihydropyridin-1(2H)-yl]carbonylcyclopentyl)-3-methoxytetrahydro-2H-pyran-4-amine (8.0 mg, 0.016 mmol) was dissolved in methanol (0.63 mL), degassed-purged with N2, followed by the addition of Palladium (3.44 mg) (10% dry weight on wet activated carbon). The reaction flask was degassed-purged with N2 three times, then stirred at room temperature under H2 (1 atm) overnight. The mixture was filtered through celite pad, washed with methylene chloride and concentrated to provide the desired product as a white solid (5.7 mg, 71%). LC-MS calculated for C27H40F3N2O3:(M+H) 497.2; found 497.2.

reactant | (4R)-N-((1 R,3S)-3-Isopropyl-3-[4-[3-(trifluoromethyl)phenyl] -3,6-dihydropyridin-1(2H)-yl]carbonylcyclopentyl)-3-methoxytetrahydro-2H-pyran-4-amine | 0.016 mmol, 8.0 mg | C(C)(C)[C@]1(C[C@@H](CC1)N[C@H]1C(COCC1)OC)C(=O)N1CCC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C27H37F3N2O3
solvent | methanol | 0.63 mL | CO | CH4O
product | (4R)-N-[(1R,3S)-3-isopropyl-3-(4-[3-(trifluoromethyl)phenyl]piperidin-1-ylcarbonyl)cyclopentyl]-3-methoxytetrahydro-2H-pyran-4-amine | 5.7 mg, 71% | C(C)(C)[C@]1(C[C@@H](CC1)N[C@H]1C(COCC1)OC)C(=O)N1CCC(CC1)C1=CC(=CC=C1)C(F)(F)F | C27H39F3N2O3
